US04390702
In the same manner as in Example 1, methyl 3-phenylpyruvate (35.62 g; 0.2 mol) is dissolved in a mixture of acetonitrile (240 g) and trichlorotrifluoroethane (1.6 L) and reacted with fluorine at -10° C. After the same work-up as in Example 1, the residue is rectified to give methyl 3-phenyl-3-fluoropyruvate (11.8 g). The silyl enol ether obtained by the treatment of the above product with bis-(trimethylsilyl)acetamide (BSA) in methylene chloride shows boiling point 93°-95° C./1 mmHg and 19F NMR (CDCl3), δ (int. C6F6)+31.5 (s).

reactant | methyl 3-phenylpyruvate | 0.2 mol, 35.62 g | C1(=CC=CC=C1)CC(C(=O)OC)=O | C10H10O3
reactant | fluorine | FF | F2
solvent | acetonitrile | 240 g | C(C)#N | C2H3N
solvent | trichlorotrifluoroethane | 1.6 L | ClC(C(F)(F)F)(Cl)Cl | C2Cl3F3
product | methyl 3-phenyl-3-fluoropyruvate | 11.8 g | C1(=CC=CC=C1)C(C(C(=O)OC)=O)F | C10H9FO3
